US09193720B2
The potassium hydroxide (213 mg, 3.8 mmol) was added to a (S)-isopropyl 2-(tert-butoxy)-2-(4-(4-cyano-4-methylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (233 mg, 0.38 mmol) in ethanol (4 mL) and stirred for 6 h at 90° C. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4-cyano-4-methylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid 41.8 mg (19%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.38-7.35 (m, 2H), 7.19 (d, J=7.3 Hz, 1H), 7.13 (d, J=8.8 Hz, 2H), 7.07-7.05 (m, 1H), 7.01-6.99 (m, 2H), 5.61 (s, 1H), 4.27-4.23 (m, 1H), 4.19-4.15 (m, 1H), 3.51 (br. s, 4H), 3.04 (t, J=6.6 Hz, 2H), 2.48 (s, 3H), 2.05 (s, 3H), 1.73-1.59 (m, 3H), 1.39-1.35 (m, 1H), 1.26 (s, 3H), 1.12 (s, 9H). UPLC (M+H)=574.5.

reactant | potassium hydroxide | 3.8 mmol, 213 mg | [OH-].[K+]
reactant | (S)-isopropyl 2-(tert-butoxy)-2-(4-(4-cyano-4-methylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.38 mmol, 233 mg | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)(C)C#N)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C37H46FN3O4
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(4-(4-cyano-4-methylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 41.8 mg, 19% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C#N)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C34H40FN3O4
